US05482650
Preparation of 5-Octyl-2-(4-(5,5-difluoro-5-(perfluorobutoxyethoxy) pentoxy)phenyl)pyrimidine (Compound 57, Table 7 )
Using essentially the procedure of Example 97, a flask was charged with sodium hydride (0.4 g of a 60 weight % suspension in mineral oil, 1.65 mmoles) and dimethyl formamide (5 mL). With stirring, 5-octyl-2-(4-hydroxyphenyl)pyrimidine (0.33 g, 1.1 mmole) was slowly added to the resulting mixture to control the hydrogen evolution. The mixture was stirred at room temperature for 30 minutes, 5,5-difluoro-5-(perfluorobutoxyethoxy)-1-pentanol toluenesulfonate (0.6 g, 0.95 mmoles) was then added, and the mixture was heated at 100° C. for one hour. The mixture was worked up essentially as in Example 99 and was distilled using a Kugelrohr apparatus (b.p. approximately 180°-200° C. at 0.4 torr). The product yield was 5.72 g (structure confirmed by 1H and 19F nuclear magnetic resonance spectroscopy).

reactant | sodium hydride | [H-].[Na+]
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 1.1 mmole, 0.33 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | hydrogen | [H][H] | H2
reactant | 5,5-difluoro-5-(perfluorobutoxyethoxy)-1-pentanol toluenesulfonate | 0.95 mmoles, 0.6 g | C=1(C(=CC=CC1)S(=O)(=O)OCCCCC(OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C | C18H15F15O5S
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-Octyl-2-(4-(5,5-difluoro-5-(perfluorobutoxyethoxy) pentoxy)phenyl)pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCC(OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C29H31F15N2O3
